US04912119
(b) N1 -[3-(3,4-Dichlorophenyl)-3-(pyridin-2-yl)-propyl]-N2 -[3-(1H-imidazol-4-yl)propyl]-guanidine
0.8 g (1.5 mmol) of N1 -benzoyl-N2 -[3-(3,4-dichlorophenyl)-3-(pyridin-2-yl)propyl]-N3 -[3-(1H-imidazol-4-yl)propyl]-guanidine are heated under reflux in 40 ml of 20% hydrochloric acid for 10 hours. The hydrochloric acid solution is then extracted three times with ether, evaporated to dryness under vacuum and dried in a high vacuum. 0.74 g (91%) of the trihydrochloride is left behind as a hygroscopic, amorphous solid.

reactant | N1 -benzoyl-N2 -[3-(3,4-dichlorophenyl)-3-(pyridin-2-yl)propyl]-N3 -[3-(1H-imidazol-4-yl)propyl]-guanidine | 1.5 mmol, 0.8 g | C(C1=CC=CC=C1)(=O)NC(=NCCC(C1=NC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)NCCCC=1N=CNC1 | C28H28Cl2N6O
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | N1 -[3-(3,4-Dichlorophenyl)-3-(pyridin-2-yl)-propyl]-N2 -[3-(1H-imidazol-4-yl)propyl]-guanidine | ClC=1C=C(C=CC1Cl)C(CCNC(=NCCCC=1N=CNC1)N)C1=NC=CC=C1 | C21H24Cl2N6
